* Pressure Sensor Circuit SPICE Netlist
* Simulates signal conditioning for sensor output

* Voltage supply
VCC VCC 0 DC 5V

* Sensor modeled as voltage source with series resistor
VSENSOR IN 0 DC 2.5V
RSENSOR IN OUT 1k

* Amplifier stage - simple NPN transistor switch model
Q1 OUT 0 VCC QX

* Transistor model
.model QX NPN(IS=1E-15 BF=100)

* Load resistor
RL OUT 0 10k

* Capacitor for noise filtering
C1 OUT 0 0.1uF

* Ground
.model load res
.tran 0.1ms 10ms
.control
run
plot V(IN) V(OUT)
.endc
.end
